US08247403B2
(2) N-ethyl-N-methyl-2,3,4,5-tetrahydro-1,4-benzoxazepine-8-amine dihydrochloride
A solution of tert-butyl 8-[ethyl(methyl)amino]-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (230 mg, 0.751 mmol) in 4N hydrogen chloride-ethyl acetate (4 ml) was stirred for 1 hr at room temperature, and the solvent was evaporated under reduced pressure. The residue was recrystallized from a mixed solvent of methanol and ether to give the desired product (143 mg, 68.1%) as a solid.

reactant | tert-butyl 8-[ethyl(methyl)amino]-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.751 mmol, 230 mg | C(C)N(C1=CC2=C(CN(CCO2)C(=O)OC(C)(C)C)C=C1)C | C17H26N2O3
reactant | hydrogen chloride-ethyl acetate | 4N, 4 ml | C(C)(=O)OCC.Cl
product | N-ethyl-N-methyl-2,3,4,5-tetrahydro-1,4-benzoxazepine-8-amine dihydrochloride | 143 mg, 68.1% | Cl.Cl.C(C)N(C1=CC2=C(CNCCO2)C=C1)C | InChI=1S/C12H18N2O.2ClH/c1-3-14(2)11-5-4-10-9-13-6-7-15-12(10)8-11;;/h4-5,8,13H,3,6-7,9H2,1-2H3;2*1H
